US07288659B2
5-{2-[(cyclohexyloxy)methylphenyl}-N-(diphenylmethylene)-1,3-thiazol-2-amine
24 g of tripotassium phosphate trihydrate, 16.7 g of 2-[(cyclohexyloxy)methyl]phenylboronic acid, obtained in step 1.2, and 2 g of tetrakis(triphenylphosphine)palladium(0) are successively introduced into 17 g of 5-bromo-N-(diphenylmethylene)-1,3-thiazol-2-amine, obtained in step 1.3, in suspension in 250 ml of 1,4-dioxane, and the mixture is kept at 60° C. for 18 hours. The reaction medium is evaporated to dryness, the residue is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a silica gel column, eluting with dichloromethane to give 37.2 g of a yellow oil.

reactant | 5-bromo-N-(diphenylmethylene)-1,3-thiazol-2-amine | 17 g | BrC1=CN=C(S1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H11BrN2S
reactant | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 2-[(cyclohexyloxy)methylphenyl}-N-(diphenylmethylene)-1,3-thiazol-2-amine | 37.2 g | C1(CCCCC1)OCC1=C(C=CC=C1)C1(SC=CN1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2OS
